US05389633
Production of 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol
Using 3-acetoxypropane-1-sulfonyl chloride and 1-methylpiperazine, the same reaction as in Reference Example 44 and 46 was conducted to produce the title compound. m.p. 90°-93° C.

reactant | 3-acetoxypropane-1-sulfonyl chloride | C(C)(=O)OCCCS(=O)(=O)Cl | C5H9ClO4S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol | CN1CCN(CC1)S(=O)(=O)CCCO | C8H18N2O3S
